US09302996B2
In N,N-dimethylformamide (1.4 mL) was dissolved 4-{5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridin-2-yl}phenol (305 mg), 60% sodium hydride (34 mg) was added to the solution at room temperature and the mixture was stirred for one hour. To the reaction mixture was added an N,N-dimethylformamide (1 mL) solution containing methyl 2-ethyl-2-(p-tolylsulfonyloxymethyl)-butanoate (264 mg) under ice-cooling. The reaction mixture was stirred at 100° C. overnight. To the reaction mixture was added 60% sodium hydride (9 mg) under ice-cooling, and the mixture was stirred at 100° C. overnight. To the reaction mixture were added a saturated aqueous ammonium chloride solution and ethyl acetate, and the liquids were separated. The aqueous layer was separated, and extracted with ethyl acetate. The organic layers were combined, washed with water and saturated brine in this order, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5 to 50:50) to obtain methyl 2-ethyl-2-[[4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)imidazol-2-yl]-2-pyridyl]phenoxy]methyl]-butanoate (248 mg).

reactant | 4-{5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridin-2-yl}phenol | 305 mg | FC(C=1N=C(N(C1)COCC[Si](C)(C)C)C=1C=CC(=NC1)C1=CC=C(C=C1)O)(F)F | C21H24F3N3O2Si
reactant | sodium hydride | 34 mg | [H-].[Na+]
reactant | methyl 2-ethyl-2-(p-tolylsulfonyloxymethyl)-butanoate | 264 mg | C(C)C(C(=O)OC)(CC)COS(=O)(=O)C1=CC=C(C=C1)C | C15H22O5S
reactant | sodium hydride | 9 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1.4 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-ethyl-2-[[4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)imidazol-2-yl]-2-pyridyl]phenoxy]methyl]-butanoate | 248 mg | C(C)C(C(=O)OC)(CC)COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C29H38F3N3O4Si
